US08871934B2
methyl 9-hydroxy-4-methyl-9-trifluoromethyl-9H-fluorene-2-carboxylate
Under an argon atmosphere, methyl 4-methyl-9-oxo-9H-fluorene-2-carboxylate (1.009 g), trimethyl(trifluoromethyl)silane (0.89 ml) and dimethylformamide (50 ml) were mixed, lithium acetate (0.027 g) was added with stirring at room temperature, and the mixture was further stirred at room temperature for 30 min. Acetic acid (0.7 ml) and a 1M solution (6 ml) of tetrabutylammonium fluoride in tetrahydrofuran were added, and the mixture was further stirred at room temperature for 15 min. To the reaction mixture was added aqueous sodium hydrogen carbonate (300 ml), and the mixture was extracted twice with ethyl acetate (50 ml). The combined organic layer was washed once with saturated aqueous sodium hydrogen carbonate, 4 times with water and once with saturated brine, and concentrated under reduced pressure. To the obtained residue was added hexane/ethyl acetate (8:2, 10 ml) and the mixture was stirred for 10 min. This slurry was filtered, and the obtained solid was dried to give the title compound (1.000 g, 78%).

reactant | methyl 4-methyl-9-oxo-9H-fluorene-2-carboxylate | 1.009 g | CC1=CC(=CC=2C(C3=CC=CC=C3C12)=O)C(=O)OC | C16H12O3
reactant | trimethyl(trifluoromethyl)silane | 0.89 ml | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | lithium acetate | 0.027 g | C(C)(=O)[O-].[Li+]
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium hydrogen carbonate | 300 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | Acetic acid | 0.7 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | methyl 9-hydroxy-4-methyl-9-trifluoromethyl-9H-fluorene-2-carboxylate | 1.000 g, 78% | OC1(C2=CC=CC=C2C=2C(=CC(=CC12)C(=O)OC)C)C(F)(F)F | C17H13F3O3
